US05668131
1) 3-Chloro-4-[N-(2-hydroxyethyl)-N-methylamino]-2-hydroxymethylpyridine
A mixture of 3,4-dichloro-2-hydroxymethylpyridine (J. Med. Chem. 1989, 32, 1970) (2.5 g) in 2-methylaminoethanol (30 ml) is heated at 160° C. in a steel autoclave for 2.5 h, the excess amine is stripped off under high vacuum, and the remaining residue is chromatographed on silica gel (dichloromethane/methanol 95/5). Yield: 2.3 g as yellowish oil.

reactant | 3,4-dichloro-2-hydroxymethylpyridine | 2.5 g | ClC=1C(=NC=CC1Cl)CO | C6H5Cl2NO
solvent | 2-methylaminoethanol | 30 ml | CNCCO | C3H9NO
product | 3-Chloro-4-[N-(2-hydroxyethyl)-N-methylamino]-2-hydroxymethylpyridine | ClC=1C(=NC=CC1N(C)CCO)CO | C9H13ClN2O2
